US09284286B2
To a solution of give 4-mercapto-2-methyl-thiazole-5-carboxylic acid ethyl ester (0.58 g, 2.83 mmol) in acetone (10 ml) are added 1-(3-bromo-1,1-difluoro-propyl)-4-fluoro-benzene (synthesized according to the methods described in sections a) to e) of example 1) (0.72 g, 2.83 mmol) and potassium carbonate (0.78 g, 5.66 mmol) an the mixture is heated at 80° C. for 16 h. Acetone is evaporated, diluted with water (40 ml) and extracted with EtOAc (3×30 ml). The crude product is purified by column chromatography (silica gel, 10% EtOAc/hexane) yielding 4-[[3,3-difluoro-3-(4-fluorophenyl)-propyl]sulfanyl]-2-methyl-thiazole-5-carboxylic acid ethyl ester (0.6 g, 1.6 mmol, 56%).

reactant | 4-mercapto-2-methyl-thiazole-5-carboxylic acid ethyl ester | 2.83 mmol, 0.58 g | C(C)OC(=O)C1=C(N=C(S1)C)S | C7H9NO2S2
reactant | 1-(3-bromo-1,1-difluoro-propyl)-4-fluoro-benzene | BrCCC(F)(F)C1=CC=C(C=C1)F | C9H8BrF3
reactant | potassium carbonate | 5.66 mmol, 0.78 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 4-[[3,3-difluoro-3-(4-fluorophenyl)-propyl]sulfanyl]-2-methyl-thiazole-5-carboxylic acid ethyl ester | 1.6 mmol, 0.6 g, 56% | C(C)OC(=O)C1=C(N=C(S1)C)SCCC(C1=CC=C(C=C1)F)(F)F | C16H16F3NO2S2
